US07807672B2
Preparation of 1-{2-Oxo-2-[5-(4-pyrimidin-2-yl-phenyl)-2,5-diaza-bicyclo[2.2.1]hept-2-yl]-ethyl}-pyrrolidine-3-carboxylic acid (3-chloro-4-hydroxy-phenyl)-amide
To a mixture of [3-(3-Chloro-4-hydroxy-phenylcarbamoyl)-pyrrolidin-1-yl]-acetic acid (10 mg, 0.034 mmol) and HOBt (6.8 mg, 0.050 mmol) in DMF (0.5 ml) at 0° C. was added EDCl (9.6 mg, 0.050 mmol). The formed reaction mixture was stirred at 0° C. for 0.5 hour and then 2-(4-Pyrimidin-2-yl-phenyl)-2,5-diaza-bicyclo[2.2.1]heptane hydrochloride salt (12.6 mg, 0.05 mmol) was added. After stirred at RT for overnight, the reaction mixture was purified using a Prep-HPLC to give titled compound (3.4 mg, 19% yield). Mass Spec ES (533.1, M+H)

reactant | [3-(3-Chloro-4-hydroxy-phenylcarbamoyl)-pyrrolidin-1-yl]-acetic acid | 0.034 mmol, 10 mg | ClC=1C=C(C=CC1O)NC(=O)C1CN(CC1)CC(=O)O | C13H15ClN2O4
reactant | HOBt | 0.050 mmol, 6.8 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 0.050 mmol, 9.6 mg | CCN=C=NCCCN(C)C.Cl
reactant | 2-(4-Pyrimidin-2-yl-phenyl)-2,5-diaza-bicyclo[2.2.1]heptane hydrochloride salt | 0.05 mmol, 12.6 mg | Cl.N1=C(N=CC=C1)C1=CC=C(C=C1)N1C2CNC(C1)C2
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | 1-{2-Oxo-2-[5-(4-pyrimidin-2-yl-phenyl)-2,5-diaza-bicyclo[2.2.1]hept-2-yl]-ethyl}-pyrrolidine-3-carboxylic acid (3-chloro-4-hydroxy-phenyl)-amide | 3.4 mg, 19% yield | ClC=1C=C(C=CC1O)NC(=O)C1CN(CC1)CC(N1C2CN(C(C1)C2)C2=CC=C(C=C2)C2=NC=CC=N2)=O | C28H29ClN6O3
